US06706716B2
8-{2-[4-(5-Chloro-2-methylphenyl)piperazino]ethyl}-8-azaspiro [4.5]decane-7,9-dione
A mixture of 1-(5-chloro-2-methylphenyl)piperazine (20 mg, 0.095 mmol) and 8-(2-chloroethyl)-8-azaspiro[4.5]decane-7,9-dione(20 mg, 0.087 mmol) was heated with stirring at 160° C. for 5 hours. The residue was purified by preparative HPLC (see Example 8 for conditions), giving (after removal of the solvent) the title compound as a pale yellow oil (17.3 mg, 0.043 mmol, 49%): ESI-MS m/z 404 (MH+).

reactant | 1-(5-chloro-2-methylphenyl)piperazine | 0.095 mmol, 20 mg | ClC=1C=CC(=C(C1)N1CCNCC1)C | C11H15ClN2
reactant | 8-(2-chloroethyl)-8-azaspiro[4.5]decane-7,9-dione | 0.087 mmol, 20 mg | ClCCN1C(CC2(CCCC2)CC1=O)=O | C11H16ClNO2
product | 8-{2-[4-(5-Chloro-2-methylphenyl)piperazino]ethyl}-8-azaspiro [4.5]decane-7,9-dione | 0.043 mmol, 17.3 mg, 49% | ClC=1C=CC(=C(C1)N1CCN(CC1)CCN1C(CC2(CCCC2)CC1=O)=O)C | C22H30ClN3O2
